US05705499
8-(3-aminophenyloxy)methyl-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(3-nitrophenylamino)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.080 g, 0.18 mmol) was dissolved in acetic acid (5 mL) and treated with a solution of stannous chloride dihydrate (0.154 g, 0.68 mmol) in concentrated hydrochloric acid (2 mL). After stirring for 17 hours the resulting mixture was made alkaline with 50% aqueous sodium hydroxide and extracted with dichloromethane (8×20 mL). The combined organics were dried over sodium sulfate, concentrated and the residue was purified by flash chromatography (hexanes to 1:1 hexanes/ethyl acetate gradient) to the title compound (0.046 g, 62%), m.p. 148°-149° C.

reactant | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(3-nitrophenylamino)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.18 mmol, 0.080 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CNC3=CC(=CC=C3)[N+](=O)[O-])=O)C | C21H19ClN6O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2 mL | Cl | ClH
product | 8-(3-aminophenyloxy)methyl-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | NC=1C=C(C=CC1)OCC1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)Cl)CC)N=C1 | C21H20ClN5O2
